USRE038963E1
Preparation of 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-1H-pyrazole-3-carboxamide (METHOD C)
1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-1H-pyrazole-3-carboxylic acid (3.7 g, 10.3 mmoles) and thionyl chloride (3 g, 25.8 mmoles) are dissolved in 70 ml of tetrahydrofuran and shaken at room temperature for 16 hours. The mixture is evaporated to dryness with a rotavapour and the crude acid chloride so obtained dissolved in 30 ml of methanol in a globe of inert atmosphere and cooled to 0° C. 9 ml of concentrated ammonium hydroxide solution dissolved in 20 ml of THF is added. The mixture is shaken at room temperature for 16 hours and the solvent eliminated with the rotavapor. Water is added to the residue and the mixture extracted with ethyl acetate, which is washed with water, dried over anhydrous sodium sulphate and evaporated to dryness. The crude residue so obtained is crystallised from ethyl acetate-petrol ether to give 2.6 g (yield: 72%) of the desired compound with a m.p.=210-5° C.

reactant | 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-1H-pyrazole-3-carboxylic acid | 10.3 mmoles, 3.7 g | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)C)C(=O)O | C17H17N3O4S
reactant | thionyl chloride | 25.8 mmoles, 3 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | 9 ml | [OH-].[NH4+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(4-aminosulphonylphenyl)-4,5-dihydro-5-(4-methylphenyl)-1H-pyrazole-3-carboxamide | 2.6 g, yield: 72% | NS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1C1=CC=C(C=C1)C)C(=O)N | C17H18N4O3S
